2190-11-17 09:33:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - cont. Vanc/Zosyn for UTI
   - off dilt gtt
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: aphasic, communicates through
   blinking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-11-16**] 05:00 PM
   Vancomycin - [**2190-11-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-11-16**] 02:04 PM
   Furosemide (Lasix) - [**2190-11-16**] 02:30 PM
   Diltiazem - [**2190-11-16**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Was on hospice, no aggressive measures
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2190-11-17**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 96 (84 - 141) bpm
   BP: 117/55(71) {85/40(60) - 139/104(110)} mmHg
   RR: 33 (27 - 39) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    472 mL
                                                                    406 mL
   PO:
             TF:
   IVF:
                                                                    472 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    555 mL
   Urine:
                                                                  1,140 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   183 K/uL
   10.8 g/dL
   115 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.1 mEq/L
   30 mg/dL
   110 mEq/L
   146 mEq/L
   32.0 %
   7.4 K/uL
        [image002.jpg]
                            [**2190-11-17**]  01:07 AM
   WBC
   7.4
   Hct
   32.0
   Plt
   183
   Cr
   1.1
   Glucose
   115
   Other labs: PT / PTT / INR:25.1/135.4/2.4, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Imaging: KUB:  colonic distension
   Microbiology: BCxs ngtd
   UCx ???
   Assessment and Plan
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 ATRIAL FIBRILLATION (AFIB)
 HYPOXEMIA
 HYPERTENSION, BENIGN
 URINARY TRACT INFECTION (UTI)
   84M with h/o CVA, afib, h/o PE, recurrent aspiration PNA, recent
   admission for abdominal distension presenting from [**Hospital3 213**] with
   an O2 sat of 65%.
   #.  Urinary Tract Infection - Last treated for UTI in [**8-29**]. Does not
   have a chronic indwelling Foley.  Got vanc/zosyn in ED.
   - Continue Vanc/zosyn, tailor as sensitivities become available
   - f/u urine culture
   - d/c Foley
   #.  Respiratory Distress - Pt has history of aspiration as well as
   flash pulmonary edema. Initial CXR showed some evidence of left lower
   lobe process.  However, patient was in afib this am and could have
   flashed as well.  The patient also had a witnessed aspiration event in
   the ED when BiPap was attempted.  The patient received vanc/zosyn in
   the ED.  BNP>[**2181**] also suggestive of congestive heart failure.  Must
   also consider PE given known history and subtherapeutic INR.
   - IV Lasix for goal of -2-3L
   - Rate control with BB
   - Continue empiric HAP coverage
   - Pulmonary toilet
   #. Atrial Fibrillation with rapid ventricular response - On a
   beta-blocker and coumadin at baseline.  Currently off dilt gtt and rate
   controlled on home meds.
   - home BB, titrate as needed
   - if difficult with rate control, start esmolol gtt
   - Continue coumadin, got lovenox in ED for subtherapeutic INR.
   - can d/c heparin gtt as INR therapeutic
   #.  Pulmonary embolism s/p IVC filter - On coumadin.  INR
   subtherapeutic at 1.4, got lovenox in ED.
   - continue coumadin
   - can d/c heparin gtt as INR therapeutic
   #.  Hypertension - Pt hypertnesive to the 190s at [**Hospital3 213**].  On a
   BB and Ace at baseline
   - will continue ACE
   - restarted on BB
   #  Chronic colonic pseudoobstruction  - Pt on reglan and substantial
   bowel regimen at baseline.  EMS documents a bowel movement and flatus
   on arrival.
   - Continue current regimen including reglan
   - Fleet Enema prn
   - Will attempt to decompress with low intermittent suction of PEG
   #.  Aspiration - Pt has chronic aspiration.  Has not been taking po's
   for some time.  Has PEG tube.
   - NPO
   - restart tube feeds
   #. Depression - Continue citalopram
   #.  Gout - Continue allopurinol
   FEN:  Restart tube feeds.  Resume free water boluses for hypernatremia
   when tube feeds restart.  Replete lytes prn.  -2-3L goal.
   PPX:
   -DVT ppx with coumadin and heparin bridge
   -Bowel regimen
   -Pain management with lidoderm patch
   ACCESS: PIV's
   CODE STATUS: DNR/[**Hospital 10675**] Hospice, no invasive or painful procedures
   EMERGENCY CONTACT: HCP [**Name (NI) **] [**Name (NI) 10669**] ([**Telephone/Fax (1) 10670**])
   DISPOSITION:  call out
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-11-16**] 01:18 PM
   22 Gauge - [**2190-11-16**] 06:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2190-11-17 09:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Restarted BB and d/c'ed dilt gtt given excellent rate control this am
   Persistent O2 requirement - on 95% HF FM
   Diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-11-16**] 05:00 PM
   Vancomycin - [**2190-11-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-11-16**] 02:04 PM
   Furosemide (Lasix) - [**2190-11-16**] 02:30 PM
   Diltiazem - [**2190-11-16**] 03:30 PM
   Other medications: Colace, Senna, Simethicoine, Tylenol, Allopurinol,
   Lisinopril, Bisacodyl, Lansoprasole, Lidocaine TD, Citalopram,
   Coumadin, Reglan, Lopressor 50mg NG TID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-17**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 96 (84 - 141) bpm
   BP: 117/55(71) {85/40(60) - 139/104(110)} mmHg
   RR: 33 (27 - 39) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                    472 mL
                                                                    406 mL
   PO:
             TF:
   IVF:
                                                                    472 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    555 mL
   Urine:
                                                                  1,140 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: ). Still
   tachypneic with accessory muscle use, though decreased from yesterday
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   183 K/uL
   115 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.1 mEq/L
   30 mg/dL
   110 mEq/L
   146 mEq/L
   32.0 %
   7.4 K/uL
        [image002.jpg]
                            [**2190-11-17**]  01:07 AM
   WBC
   7.4
   Hct
   32.0
   Plt
   183
   Cr
   1.1
   Glucose
   115
   Other labs: PT / PTT / INR:25.1/135.4/2.4, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Imaging: CXR - Persistent bibasilar infiltrates, but improved from
   yesterday
   Microbiology: Urine cx ordered
   Assessment and Plan
   84 y/o with h/o CVA, Afib with RVR, PE, and recurrent aspiration PNA
   who presents with UTI, hypertensive urgency, and afib with RVR.
   Subsequently became volume overloaded with a witnessed aspiration event
   requiring 100% NRB mask.
   #Hypoxemic respiratory failure:  Likely [**2-22**] pulmonary edema given
   diastolic dysfunction and aspiration PNA.  [**Month (only) 60**] have element of HAP
   given initial LLL opacity on CXR.
   - Vanc/Cefepime
   - Diuresis
   - Nebulizers
   - Reduced oxygen need today, will continue to wean O2 as tolerated
   #Afib with RVR:
   - Diuresis
   - Continue to titrate BB as tolerated
   #UTI: On Cefepime
   - F/U Cultures.
   #H/o PE: Therapeutic on coumadin
   #GI: Large amount of GI tract air.  S/p fleet enema last pm
   - Continue bowel regimen
   - Abd xray ordered
   - Restart TF today
   #Reactive airway disease:  PRN nebs.
   #Code Status: DNI/DNR
 sedation/blood products/a line okay, otherwise
   no invasive procedures.
   ICU Care
   Nutrition:
   Glycemic Control:  Dexi checks
   Lines:
   18 Gauge - [**2190-11-16**] 01:18 PM
   22 Gauge - [**2190-11-16**] 06:40 PM
   Prophylaxis:
   DVT: Boots, Coumadin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor later this afternoon if oxygen
   requirements stable or decreasing
   Total time spent: 35 minutes

2190-11-18 07:29:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   -d/c'd dilt gtt
   -heparin gtt d/c'd as INR therapeutic
   -incr metoprolol to 125 mg TID
   -restarted TF via PEG
   -lasix 40 mg IV at 1030 put out 1000 cc
   -lasix 40 mg IV at 1700 put out 700 cc
   -lasix 80 mg IV at 2300 put out 700+ cc
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-17**] 08:00 PM
   Cefipime - [**2190-11-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-17**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-18**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 99 (89 - 113) bpm
   BP: 106/65(75) {101/45(57) - 133/84(95)} mmHg
   RR: 28 (28 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,082 mL
                                                                  1,226 mL
   PO:
             TF:
                                                                    770 mL
                                                                    952 mL
   IVF:
                                                                    803 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  2,625 mL
                                                                    820 mL
   Urine:
                                                                  2,625 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -543 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: irregularly irregula
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   176 K/uL
   9.1 g/dL
   120 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.2 mEq/L
   39 mg/dL
   112 mEq/L
   153 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                            [**2190-11-17**]  01:07 AM
                            [**2190-11-18**]  05:18 AM
   WBC
   7.4
   8.5
   Hct
   32.0
   27.3
   Plt
   183
   176
   Cr
   1.1
   1.4
   Glucose
   115
   120
   Other labs: PT / PTT / INR:55.3/48.5/6.2, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.1 mg/dL
   Microbiology: BCxs NGTD
   UCx NGTD (post abx)
   Assessment and Plan
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 ATRIAL FIBRILLATION (AFIB)
 HYPOXEMIA
 HYPERTENSION, BENIGN
 URINARY TRACT INFECTION (UTI)
   84M with h/o CVA, afib, h/o PE, recurrent aspiration PNA, recent
   admission for abdominal distension presenting from [**Hospital3 213**] with
   an O2 sat of 65%.
   #.  Respiratory Distress - Pt has history of aspiration as well as
   flash pulmonary edema. Initial CXR showed some evidence of left lower
   lobe process.   The patient also had a witnessed aspiration event in
   the ED when BiPap was attempted.  The patient received vanc/zosyn in
   the ED.  However, patient also in afib with RVR and could have flashed
   as well.  BNP>[**2181**] also suggestive of congestive heart failure.  Must
   also consider PE given known history and subtherapeutic INR.
   - IV Lasix for goal of 0L
   - Rate control with BB
   - Continue empiric HAP coverage for 8 day course
   - Sputum culture if produces
   - Pulmonary toilet
   #. Atrial Fibrillation with rapid ventricular response - On a
   beta-blocker and coumadin at baseline.  Initially requiring dilt gtt
   and rate controlled on home meds.
   - metoprolol, titrated to max
   - consider changing to dilt
   - Continue coumadin, got lovenox in ED for subtherapeutic INR.  Now
   supratherapeutic
   # HCT drop:  Was hemoconcentrated on arrival.  Baseline HCT is 30.
   However, currently supratherpeutic without e/o bleeding.
   - CBC [**Hospital1 **]
   - T&S
   - guaiac stools
   - if evidence of bleeding, FFP
   # ARF:  Likely hypovolemia.  [**Month (only) 60**] also be AIN.
   - trend Cr with increased FWB
   - hold off on diuresis for now
   - urine lytes, eos, sed
   #.  Urinary Tract Infection - Last treated for UTI in [**8-29**]. Does not
   have a chronic indwelling Foley.  Got vanc/zosyn in ED.
   - Continue Vanc/zosyn, tailor as sensitivities become available
   - f/u urine culture
   - d/c Foley
    #.  Pulmonary embolism s/p IVC filter - On coumadin.  INR
   subtherapeutic at 1.4, got lovenox in ED.
   - continue coumadin
   #.  Hypertension - Pt hypertnesive to the 190s at [**Hospital3 213**].  On a
   BB and Ace at baseline
   - will continue ACE
   - restarted on BB
   #  Chronic colonic pseudoobstruction  - Pt on reglan and substantial
   bowel regimen at baseline.  EMS documents a bowel movement and flatus
   on arrival.
   - Continue current regimen including reglan
   - Fleet Enema prn
   - Will attempt to decompress with low intermittent suction of PEG
   #.  Aspiration - Pt has chronic aspiration.  Has not been taking po's
   for some time.  Has PEG tube.
   - NPO
   - restarted tube feeds
   #. Depression - Continue citalopram
   #.  Gout - Continue allopurinol
   FEN:  Restarted tube feeds.  Increased free water boluses for
   hypernatremia, will need to be backed off once Na normalizes.  Replete
   lytes prn.  0L goal.
   PPX:
   -DVT ppx with coumadin
   -Bowel regimen
   -Pain management with lidoderm patch
   ACCESS: PIV's
   CODE STATUS: DNR/[**Hospital 10675**] Hospice, no invasive or painful procedures
   EMERGENCY CONTACT: HCP [**Name (NI) **] [**Name (NI) 10669**] ([**Telephone/Fax (1) 10670**])
   DISPOSITION:  call out
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2190-11-18**] 01:53 AM 140 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-11-16**] 01:18 PM
   22 Gauge - [**2190-11-16**] 06:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2190-11-18 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Uptitrated metoprolol 125mg PO TID
   Restarted TF
   IV Lasix for diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-11-18**] 12:00 AM
   Vancomycin - [**2190-11-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-17**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-18**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 93 (89 - 113) bpm
   BP: 123/67(82) {95/45(57) - 131/84(95)} mmHg
   RR: 28 (28 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,082 mL
                                                                  2,709 mL
   PO:
             TF:
                                                                    770 mL
                                                                  1,230 mL
   IVF:
                                                                    803 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                  2,625 mL
                                                                  1,020 mL
   Urine:
                                                                  2,625 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -543 mL
                                                                  1,689 mL
   Respiratory support
   O2 Delivery Device: Face tent
   FiO2: 40%
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Trace
   Skin:  warm, no rashes
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   176 K/uL
   120 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.2 mEq/L
   39 mg/dL
   112 mEq/L
   153 mEq/L
   27.3 %
   8.5 K/uL
        [image002.jpg]
                            [**2190-11-17**]  01:07 AM
                            [**2190-11-18**]  05:18 AM
   WBC
   7.4
   8.5
   Hct
   32.0
   27.3
   Plt
   183
   176
   Cr
   1.1
   1.4
   Glucose
   115
   120
   Other labs: PT / PTT / INR:55.3/48.5/6.2, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.1 mg/dL
   Imaging: No CXR.
   Microbiology: All cultures negative to date.
   Assessment and Plan
   84 y/o with h/o CVA, Afib with RVR, PE, and recurrent aspiration PNA
   who presents with UTI, hypertensive urgency, and afib with RVR.
   Subsequently became volume overloaded with a witnessed aspiration event
   requiring 100% NRB mask.
   #Hypoxemic respiratory failure:  Likely [**2-22**] pulmonary edema given
   diastolic dysfunction and aspiration PNA.  [**Month (only) 60**] have element of HAP
   given initial LLL opacity on CXR.
   - Vanc/Cefepime for now, but will transition to oral regimen prior to
   transfer to rehab
   - Nebulizers for reactive airway disease
   - Wean O2 as tolerated
   #Afib with RVR: Stable in low 100s. On high dose BB with little
   response.
   - Will transition to dilt PO for better control
   #UTI: On Cefepime
   - F/U Cultures.
   #H/o PE: Therapeutic on coumadin.  Decreased Hct 36 -> 27 this
   admisison (baseline around 30) with INR of 6.0.  No evidence of active
   bleeding.
   - D/c coumadin
   - Consider vit K for active bleeding
   - Serial hcts
   - Guiac stools
   #ARF: Increased Creat 1.4 from 1.1 yesterday
   - Run even today and follow creatinine.
   - Urine lytes/eos
   #FEN/GI: Continue bowel regimen. On TF today. Sodium increased to 153.
   - Increase FWF.
   - PM sodium
   #Code Status: DNI/DNR
 sedation/blood products/a line okay, otherwise
   no invasive procedures.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2190-11-16**] 01:18 PM
   22 Gauge - [**2190-11-16**] 06:40 PM
   Prophylaxis:
   DVT: Boots, Coumadin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to rehab (bed being held at [**Location (un) **] Corner)
   Total time spent: 20 minutes